US06503935B1
8-fluoro-5-hydroxy-3,4-dihydro-1 (2H)-naphthalenone
A solution of 8-fluoro-5-methoxytetralone (Owton, W. M. J. Chem. Soc., Perkin Trans. 1 (1994), 2131-2135) (7.0 g, 36 mmol) in 1,2-dichlorethane (150 mL) was treated with aluminum chloride-(21 g, 157 mmol), refluxed for 3.5 hours, cooled to ambient temperature, poured carefully into 4M HCl (500 mL), stirred for 16 hours, treated with dichloromethane (400 mL) and thoroughly shaken. A black solid was removed by filteration through Celite®. The dichloromethane layer was isolated, combined with the black solid and extracted with 5% sodium hydroxide solution (3×150 mL). The combined sodium hydroxide extracts were acidified with 4M hydrochloric acid and the resulting solid was collected by filtration to provide the desired product as a brown solid.

reactant | 8-fluoro-5-methoxytetralone | 36 mmol, 7.0 g | FC=1C=CC(=C2CCCC(C12)=O)OC | C11H11FO2
reactant | aluminum chloride- | 157 mmol, 21 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | 4M, 500 mL | Cl | ClH
reactant | dichloromethane | 400 mL | ClCCl | CH2Cl2
solvent | 1,2-dichlorethane | 150 mL | ClCCCl | C2H4Cl2
product | 8-fluoro-5-hydroxy-3,4-dihydro-1 (2H)-naphthalenone | FC=1C=CC(=C2CCCC(C12)=O)O | C10H9FO2
